US07825150B2
To a 0° C. solution of 5-((3aR,6aR)-4-hydroxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N,N,4-trimethyl-2-(1-(triisopropylsilyloxy)vinyl)-1H-imidazole-1-sulfonamide (2.09 g, 3.83 mmol) in ethanol (70 ml) was added granular NaBH4 (1.4 g, 38.32 mmol) in a few portions. After 2 hours, the reaction was warmed to room temperature for 30 minutes, then concentrated. The residue was redissolved in water (40 ml) and ethyl acetate (40 ml). The biphasic mixture was stirred vigorously for 10 minutes, then the layers were separated. The aqueous layer was washed with ethyl acetate (2×40 ml) and the combined organics were washed with brine (30 ml), then dried over MgSO4 and concentrated. The crude foam was purified by flash chromatography over silica (5% methanol:dichloromethane eluent) to provide 5-((R)-hydroxy((4S,5R)-5-(hydroxymethyl)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-N,N,4-trimethyl-2-(1-(triisopropylsilyloxy)vinyl)-1H-imidazole-1-sulfonamide (1.88 g, 90% yield) as a 3:1 mixture of inseparable diasteromers at the benzylic position: M+1=547.4.

reactant | 5-((3aR,6aR)-4-hydroxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N,N,4-trimethyl-2-(1-(triisopropylsilyloxy)vinyl)-1H-imidazole-1-sulfonamide | 3.83 mmol, 2.09 g | OC1(OC[C@H]2OC(O[C@H]21)(C)C)C2=C(N=C(N2S(=O)(=O)N(C)C)C(=C)O[Si](C(C)C)(C(C)C)C(C)C)C | C24H43N3O7SSi
reactant | NaBH4 | 38.32 mmol, 1.4 g | [BH4-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 5-((R)-hydroxy((4S,5R)-5-(hydroxymethyl)-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-N,N,4-trimethyl-2-(1-(triisopropylsilyloxy)vinyl)-1H-imidazole-1-sulfonamide | 1.88 g, 90% yield | O[C@H](C1=C(N=C(N1S(=O)(=O)N(C)C)C(=C)O[Si](C(C)C)(C(C)C)C(C)C)C)[C@@H]1OC(O[C@@H]1CO)(C)C | C24H45N3O7SSi
